US09169254B2
N,N-Dimethylformamide di-tert-butyl acetal (7.4 ml, 31 mmol) was added to a solution of trans-4-hydroxy-cyclohexanecarboxylic acid (1.484 g, 10.29 mmol) in toluene (8.5 ml), and the mixture was stirred at 80° C. for 25 hours. The reaction mixture was diluted with ether, and the organic layer was sequentially washed with water, an aqueous sodium bicarbonate solution and saturated brine, dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give trans-4-hydroxy-cyclohexanecarboxylic acid tert-butyl ester as a colorless solid (838 m, 41%).

reactant | N,N-Dimethylformamide di-tert-butyl acetal | 31 mmol, 7.4 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | trans-4-hydroxy-cyclohexanecarboxylic acid | 10.29 mmol, 1.484 g | O[C@@H]1CC[C@H](CC1)C(=O)O | C7H12O3
solvent | toluene | 8.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | trans-4-hydroxy-cyclohexanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@@H]1CC[C@H](CC1)O | C11H20O3
